US05254558
To a solution of ethanol (200 mL) in chloroform (100 mL) at 0° C. was added acetyl chloride (190 mL) and a solution of 3-cyanopyridine (25 g) in (300 mL) of chloroform. The solution was allowed to warm to 25° C. and to stand for 1 day. A white solid separated from solution. The solvent was removed and the white solid collected and washed with ether to provide pure ethyl 3-pyridine-carboximidate hydrochloride as a white solid; MS: m/z=152(M+1).

reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | acetyl chloride | 190 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-cyanopyridine | 25 g | C(#N)C=1C=NC=CC1 | C6H4N2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-pyridine-carboximidate hydrochloride | Cl.N1=CC(=CC=C1)C(OCC)=N | InChI=1S/C8H10N2O.ClH/c1-2-11-8(9)7-4-3-5-10-6-7;/h3-6,9H,2H2,1H3;1H
